US06977260B2
Step 3. [4-((R)-2-Formyl-6-oxo-piperidin-1-yl)-butoxy]-acetic acid ethyl ester
1-(3-(Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI, 505 mg, 2.63 mmol) and DMSO (0.25 mL, 3.52 mmol) were added sequentially to a solution of [4((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-butoxy]-acetic acid ethyl ester (252 mg, 0.88 mmol) in benzene (5 mL). The mixture was cooled to 0° C. and pyridinium trifluoroacetate (187 mg, 0.97 mmol) was added. The reaction was allowed to warm to rt and then was stirred at rt for 4.25 h. The solution was decanted from the oily residue and the residue was washed with benzene (3×5 mL). The combined benzene phases were concentrated in vacuo to afford crude 4-((R)-2-formyl-6-oxo-piperidin-1-yl)-butoxy]-acetic acid ethyl ester that was used without further purification.

reactant | DMSO | 3.52 mmol, 0.25 mL | CS(=O)C | C2H6OS
reactant | [4((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-butoxy]-acetic acid ethyl ester | 0.88 mmol, 252 mg | C(C)OC(COCCCCN1[C@H](CCCC1=O)CO)=O | C14H25NO5
reactant | pyridinium trifluoroacetate | 0.97 mmol, 187 mg | FC(C(=O)[O-])(F)F.[NH+]1=CC=CC=C1
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | [4-((R)-2-Formyl-6-oxo-piperidin-1-yl)-butoxy]-acetic acid ethyl ester | C(C)OC(COCCCCN1[C@H](CCCC1=O)C=O)=O | C14H23NO5
